* source HBRIDGE
V_V1         +24VDC 0 24VDC
R_R7         N03525 +24VDC 1K
R_R6         0 N03761 10k
V_V2         HBRIDGE_1 0  
+PULSE 0 5 10u 10u 10u 200u 400u
Q_Q1         N05618 N03761 0 QbreakN 
R_R5         N04776 HBRIDGE_1 10k
Q_Q2         N05606 N04776 0 QbreakN 
R_R3         N03543 +24VDC 1k
X_D1         N05606 N03543 awbbzx84c5v1 PARAMS:               
X_D2         N05618 N03525 awbbzx84c5v1 PARAMS:               
X_U1         N03557 N15780 0 IRFRU4105
X_U2         N03557 N03525 +24VDC IRFRU5305
X_U3         N03583 N03543 +24VDC IRFRU5305
X_U4         N03583 N15669 0 IRFRU4105
X_D4         N03583 +24VDC awb1n4720 PARAMS:                
X_D5         N03557 +24VDC awb1n4720 PARAMS:                
X_D6         0 N03583 awb1n4720 PARAMS:                
X_D7         0 N03557 awb1n4720 PARAMS:                
R_R11         N15669 0 100
R_R12         HBRIDGE_1 N15780 100
R_R17         N03557 N21687  12 TC=0,0 
L_L2         N21687 N03583  2m  
